US06953802B2
A solution of (R)-3-(5-bromo-2-chloropyrimidin-4-ylamino)-3-(4-(tert-butyldimethylsiloxy)phenyl)propanoic acid ethyl ester (1.0 eq) and N-methylcyclohexylamine (10.0 eq) in iPrOH in a sealed tube was stirred at 130° C. for 5 h, and then the iPrOH was evaporated. The residue was partitioned between water and EtOAc, and then the EtOAc extracts were treated with MgSO4, filtered and evaporated. The residue was purified by flash chromatography on silica gel using 9:1 hexanes/EtOAc to give (R)-3-(5-bromo-2-(N-cyclohexyl-N-methylamino)pyrimidin-4-ylamino)-3-(4-(tert-butyldimethylsiloxy)phenyl)propanoic acid ethyl ester.

reactant | (R)-3-(5-bromo-2-chloropyrimidin-4-ylamino)-3-(4-(tert-butyldimethylsiloxy)phenyl)propanoic acid ethyl ester | 1.0 eq | C(C)OC(C[C@H](C1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C)NC1=NC(=NC=C1Br)Cl)=O | C21H29BrClN3O3Si
reactant | N-methylcyclohexylamine | 10.0 eq | CNC1CCCCC1 | C7H15N
solvent | iPrOH | CC(C)O | C3H8O
product | (R)-3-(5-bromo-2-(N-cyclohexyl-N-methylamino)pyrimidin-4-ylamino)-3-(4-(tert-butyldimethylsiloxy)phenyl)propanoic acid ethyl ester | C(C)OC(C[C@H](C1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C)NC1=NC(=NC=C1Br)N(C)C1CCCCC1)=O | C28H43BrN4O3Si
